US06090797
[7-(4-Chloro-phenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl]-(4-methoxy-phenyl)-methanone
7-(4-Chloro-phenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridin (100 mg) in toluene (20 ml), 4-methoxybenzoyl chloride (68.3 mg) and triethylamine (1 ml) were mixed and the mixture stirred at RT for 2 h. The reaction mixture was extracted once with NaOH (1 M) and once with water, the organic phase dried (MgSO4) and evaporated to dryness resulting in yellow oil which was purified on silica gel using methylene chloride/methanol 19/1 as eluent. The resulting oil was treated with abs ethanol resulting in precipitation of crystals. Yield 91%, m.p. 129.5-130.0 C. MS. M+=383.

reactant | 7-(4-Chloro-phenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridin | 100 mg | ClC1=CC=C(C=C1)C1NCCC2=C1SC=C2 | C13H12ClNS
reactant | 4-methoxybenzoyl chloride | 68.3 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | [7-(4-Chloro-phenyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl]-(4-methoxy-phenyl)-methanone | Yield 91% | ClC1=CC=C(C=C1)C1N(CCC2=C1SC=C2)C(=O)C2=CC=C(C=C2)OC | C21H18ClNO2S
